US07192943B2
To a solution of the crude product of tert-butyl (4S)-5-[(5-amino-1-methyl-1H-pyrazol-4-yl)amino]-4-{[3-(tert-butoxycarbonylamino)propionyl]amino}-5-oxopentylcarbamate and triethylamine (1.52 g) in chloroform (100 ml) was added triphenylmethyl chloride (4.20 g), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was washed successively with 10% aqueous citric acid solution, brine and saturated aqueous sodium hydrogencarbonate solution. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to give tert-butyl (4S)-4-{[3-(tert-butoxycarbonylamino)propionyl]amino}-5-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-5-oxopentylcarbamate (7.20 g) as an oil.

reactant | tert-butyl (4S)-5-[(5-amino-1-methyl-1H-pyrazol-4-yl)amino]-4-{[3-(tert-butoxycarbonylamino)propionyl]amino}-5-oxopentylcarbamate | NC1=C(C=NN1C)NC([C@H](CCCNC(OC(C)(C)C)=O)NC(CCNC(=O)OC(C)(C)C)=O)=O | C22H39N7O6
reactant | triethylamine | 1.52 g | C(C)N(CC)CC | C6H15N
reactant | triphenylmethyl chloride | 4.20 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl (4S)-4-{[3-(tert-butoxycarbonylamino)propionyl]amino}-5-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-5-oxopentylcarbamate | 7.20 g | C(C)(C)(C)OC(=O)NCCC(=O)N[C@@H](CCCNC(OC(C)(C)C)=O)C(=O)NC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C41H53N7O6
